US04154842
A solution of 36.3 g (0.2 mol) of crude 4-acetoxy-1-bromo-1-(4-chlorophenoxy)-3,3-dimethyl-butan-2-one in 50 ml of acetone was added dropwise, at the boil, to a suspension of 21 g (0.3 mol) of 1,2,4-triazole and 30g (0.2 mol) of potassium carbonate in 200 ml of acetone. After heating for 15 hours under reflux, the mixture was filtered and the filtrate was concentrated by distilling off the solvent in vacuo. The residue was taken up in 200 ml of methylene chloride and the solution was washed three times with 50 ml of water at a time, dried over sodium sulphate and concentrated. The residue was dissolved in 100 ml of acetone and 36 g (0.1 mol) of 1,5-naphthalenedisulphonic acid octahydrate in 100 ml of acetone were added. The crystalline precipitate which resulted was filtered off and dried. 45 g (45% of theory) of 4-acetoxy-1-(4-chloro-phenoxy)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-one 1,5-naphthalenedisulphonate of melting point 155°-160° C. were obtained.

reactant | 4-acetoxy-1-bromo-1-(4-chlorophenoxy)-3,3-dimethyl-butan-2-one | 0.2 mol, 36.3 g | C(C)(=O)OCC(C(C(OC1=CC=C(C=C1)Cl)Br)=O)(C)C | C14H16BrClO4
reactant | 1,2,4-triazole | 0.3 mol, 21 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1,5-naphthalenedisulphonic acid octahydrate | 0.1 mol, 36 g | O.O.O.O.O.O.O.O.C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-acetoxy-1-(4-chloro-phenoxy)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-one 1,5-naphthalenedisulphonate | 45 g, 45% | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O.C(C)(=O)OCC(C(C(N1N=CN=C1)OC1=CC=C(C=C1)Cl)=O)(C)C | InChI=1S/C16H18ClN3O4.C10H8O6S2/c1-11(21)23-8-16(2,3)14(22)15(20-10-18-9-19-20)24-13-6-4-12(17)5-7-13;11-17(12,13)9-5-1-3-7-8(9)4-2-6-10(7)18(14,15)16/h4-7,9-10,15H,8H2,1-3H3;1-6H,(H,11,12,13)(H,14,15,16)
